US06797725B2
To a reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride (150 mg, 0.5 mmol) and 3-pyrrolidin-1-yl-propane-1,2-diol (88 mg, 0.6 mmol) in 3.0 mL of THF was added 80 μl of pyridine dropwise at room temperature. Upon addition, the reaction mixture was stirred at room temperature for 20 min., and filtered. The orange solid was then washed with ethyl acetate and hexane sequentially and dried in a vacuum oven overnight to give 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-3-pyrrolidin-1-yl-propyl ester as an orange solid. 1HNMR (400 MHz, CDCl3 and 2 drops of DMSO-d6) δ 12.63 (s, br, 1H, NH-1′), 11.77 (s, br, 1H, OH), 7.86-7.88 (m, 1H), 7.51-7.53 (m, 1H), 7.42 (s, 1H, H-vinyl), 7.18-7.25 (m, 2H), 6.06 (d, J=2.3 Hz, 1H, H-4′), 4.65-4.73 (m, 2H), 4.44-4.56 (m, 2H), 3.91-3.93 (m, 1H), 3.33-3.52 (m, 2H), 2.88-3.15 (m, 2H), 2.40 (s, 3H, CH3), 2.36 (s, 3H, CH3), and 2.01-2.32 (m, 4H).

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride | 0.5 mmol, 150 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)Cl)=O | C16H13ClN2O2
reactant | 3-pyrrolidin-1-yl-propane-1,2-diol | 0.6 mmol, 88 mg | N1(CCCC1)CC(CO)O | C7H15NO2
reactant | pyridine | 80 μl | N1=CC=CC=C1 | C5H5N
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-3-pyrrolidin-1-yl-propyl ester | OC(COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O)CN1CCCC1 | C23H27N3O4
